US05124350
1-[2,4-Dihydroxy-3-(2-propenyl)benzoyl]pyrrolidine
Methyl 2,4-dihydroxy-3-(2-propenyl)benzoate (3.0 g) and a few crystals of ammonium chloride were added to 20 ml of pyrrolidine. The reaction mixture was heated to 50° C. and stirred overnight. The reaction mixture was neutralized with 10% hydrochloric acid and extracted with ethyl acetate. Concentration under vacuum to remove solvent gave the product as a light brown solid.

reactant | Methyl 2,4-dihydroxy-3-(2-propenyl)benzoate | 3.0 g | OC1=C(C(=O)OC)C=CC(=C1CC=C)O | C11H12O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyrrolidine | 20 ml | N1CCCC1 | C4H9N
product | 1-[2,4-Dihydroxy-3-(2-propenyl)benzoyl]pyrrolidine | OC1=C(C(=O)N2CCCC2)C=CC(=C1CC=C)O | C14H17NO3
